US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
To 60% sodium hydride (128 mg) suspended in anhydrous tetrahydrofuran (30 ml), 2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine was added at room temperature under argon atmosphere. The mixture was stirred at room temperature for 30 minutes. Subsequently, 2-bromo-2′-methylacetophenone (375 mg) in anhydrous tetrahydrofuran (10 ml) was added thereto, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. Ice-water (50 ml) was added to the residue, followed by extraction with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. Ethanol was added to the residue for solidification and collection by filtration, to thereby obtain 426 mg of the title compound as a white solid (yield: 46.6%).

reactant | sodium hydride | 128 mg | [H-].[Na+]
reactant | 2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CN(C2=C(N1)C=CC=C2)C(=O)C21CC3CC(CC(C2)C3)C1)NC(=O)OC(C)(C)C | C25H33N3O4
reactant | 2-bromo-2′-methylacetophenone | 375 mg | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(adamantan-1-yl)carbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 426 mg, yield: 46.6% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(=O)C21CC3CC(CC(C2)C3)C1)NC(=O)OC(C)(C)C)=O)C | C34H41N3O5
